US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 3-phenylisoxazole-5-boronic acid were coupled in the same way as in Example 30 to give 2-{8-fluoro-3-[4-fluoro-3-(3-phenylisoxazol-5-yl)phenyl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid (6 mg, 5%): m/z (ES+) 432 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 3-phenylisoxazole-5-boronic acid | C1(=CC=CC=C1)C1=NOC(=C1)B(O)O | C9H8BNO3
product | 2-{8-fluoro-3-[4-fluoro-3-(3-phenylisoxazol-5-yl)phenyl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol | 6 mg, 5% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C2=CC(=C(C=C2)F)C2=CC(=NO2)C2=CC=CC=C2 | C25H19F2N3O2
